US07799775B2
To a solution of 1.52 g of 2-[3-(4-quinolin-2-ylpiperazin-1-yl)propyl]isoindol-1,3-dione in 30 ml of ethanol, another solution of 1.50 g of hydrazine monohydrate in 10 ml of ethanol was added, and heated under reflux for 7 hours. Cooling the reaction mixture, insoluble matter was separated by filtration, and the solvent was distilled off under reduced pressure. The residue was made alkaline with 5N-sodium hydroxide, extracted with chloroform, washed with saturated brine and dried over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, 0.99 g (96%) of 3-(4-quinolin-2-ylpiperazin-1-yl)propylamine was obtained.

reactant | 2-[3-(4-quinolin-2-ylpiperazin-1-yl)propyl]isoindol-1,3-dione | 1.52 g | N1=C(C=CC2=CC=CC=C12)N1CCN(CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C24H24N4O2
reactant | hydrazine monohydrate | 1.50 g | O.NN
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(4-quinolin-2-ylpiperazin-1-yl)propylamine | 0.99 g, 96% | N1=C(C=CC2=CC=CC=C12)N1CCN(CC1)CCCN | C16H22N4
